US05808062
4-Hydroxy-6-phenyl-3-[[(3-phenoxyphenyl)methyl]thio]-2H-pyran-2-one:
The title compound was prepared by Method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (15 mL), 1N sodium hydroxide (5.31 mL), (3-phenoxyphenyl)methyl p-toluenethiosulfonate (1.96 g, 5.31 mmol). m.p. 131°-133° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.97 (s, 2H) 6.73 (s, 1H), 6.87 (m, 4H), 7.03 (m, 2H), 7.27 (m, 3H), 7.53 (m, 3H), 7.78 (m, 2H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | sodium hydroxide | 1N, 5.31 mL | [OH-].[Na+]
reactant | (3-phenoxyphenyl)methyl p-toluenethiosulfonate | 5.31 mmol, 1.96 g | C1(=CC=C(C=C1)S(=O)(OCC1=CC(=CC=C1)OC1=CC=CC=C1)=S)C | C20H18O3S2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-Hydroxy-6-phenyl-3-[[(3-phenoxyphenyl)methyl]thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SCC1=CC(=CC=C1)OC1=CC=CC=C1 | C24H18O4S
